US04963561
(b) 4-(2-Dimethylamino-1-trifluoroacetyl-1-ethenyl)pyridine [(CH3)2NCH=C(COCF3)C5H4N].
To a solution of 36 g 4-(2-dimethylamino-1ethenyl)pyridine and 49 g triethylamine in 360 ml methylene dichloride held at 0° C. was added dropwise over a 1 hour period a solution of 56 g trifluoroacetic anhydride in 18 ml methylene dichloride. The reaction mixture was allowed to warm to 20° C. and stirred for 16 hours. The solvent was removed and the oily residue extracted with ether (5×600 ml). Silica gel (24 g) and magnesium sulfate (20 g) were added to the ether solution which was stirred and filtered. The filtrate was concentrated in vacuo and the residue solidified at 0° C. to give a yellow-orange oily solid. The latter was combined with the product of another run starting with 60 g of 4-(2-dimethylamino-1-ethenyl)pyridine and used directly in the next reaction (total crude product 180 g).

reactant | 4-(2-dimethylamino-1ethenyl)pyridine | 36 g | CN(C=CC1=CC=NC=C1)C | C9H12N2
reactant | triethylamine | 49 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 56 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-(2-dimethylamino-1-ethenyl)pyridine | 60 g | CN(C=CC1=CC=NC=C1)C | C9H12N2
solvent | methylene dichloride | 360 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 18 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-Dimethylamino-1-trifluoroacetyl-1-ethenyl)pyridine | CN(C=C(C(C(F)(F)F)=O)C1=CC=NC=C1)C | C11H11F3N2O
